US06103907
(a) 4'-(2-Pyridyl)acetophenone
After 21 ml of a 3M methyl magnesium bromide-diethyl ether solution was added dropwise to a solution of 3.10 g of 4-(2-pyridyl)benzonitrile in 120 ml of dichloromethane under ice-cooling in a nitrogen atmosphere, the mixture was stirred at room temperature for 20 hours. After the reaction, an aqueous ammonium chloride solution and ethyl acetate were added to the reaction mixture, followed by stirring of the resulting mixture. The ethyl acetate layer was separated from the reaction mixture, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain the crude desired compound as crystals. Further, the crude compound was washed with diisopropyl ether-hexane to obtain 1.56 g of the desired compound.

reactant | methyl magnesium bromide diethyl ether | 3M | C[Mg]Br.C(C)OCC
reactant | 4-(2-pyridyl)benzonitrile | 3.10 g | N1=C(C=CC=C1)C1=CC=C(C#N)C=C1 | C12H8N2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4'-(2-Pyridyl)acetophenone | 1.56 g | N1=C(C=CC=C1)C1=CC=C(C=C1)C(C)=O | C13H11NO
